US05107068
A mixture composed of 1 part by weight of bisphenol A and 4 parts by weight of nonylphenol was reacted with an aqueous formaldehyde in the presence of p-toluene sulfonic acid. Bisphenol A/nonylphenol resin obtained had (Mn) of 1032, (f) of 5.18 and a softening point of 121° C.

reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | nonylphenol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | formaldehyde | C=O | CH2O
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Bisphenol A nonylphenol | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.CCCCCCCCCC=1C=CC(=CC1)O | InChI=1S/C15H16O2.C15H24O/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;1-2-3-4-5-6-7-8-9-14-10-12-15(16)13-11-14/h3-10,16-17H,1-2H3;10-13,16H,2-9H2,1H3
